US06403791B1
4-Difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid (2-ethyl-4-methyl-2H-pyrazol-3-yl)-amide
Starting from 4-difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid (150 mg) and 2-ethyl-4-methyl-2H-pyrazol-3-ylamine (90 mg). Purification by column chromatography on silica eluting 2:1 ethyl acetate-heptane followed by ethyl acetate afforded the title compound as a white solid (85 mg).

reactant | 4-difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid | 150 mg | FC(OC1=CC=C(C2=C1N=C(O2)CC)C(=O)O)F | C11H9F2NO4
reactant | 2-ethyl-4-methyl-2H-pyrazol-3-ylamine | 90 mg | C(C)N1N=CC(=C1N)C | C6H11N3
product | 4-Difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid (2-ethyl-4-methyl-2H-pyrazol-3-yl)-amide | 85 mg | C(C)N1N=CC(=C1NC(=O)C1=CC=C(C=2N=C(OC21)CC)OC(F)F)C | C17H18F2N4O3
